US05811433
b. Ethyl 7-chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate
4.26 g (10 mmol) of ethyl 2-(4,6-dichloro-5-fluoronicotinoyl)-3-(2,4-difluorophenyl)amino-acrylate are stirred with 1.65 g (12 mmol) of potassium carbonate in 28 ml of DMF at 100° C. for four hours. Ice-water is added to the mixture and the product is isolated.

reactant | ethyl 2-(4,6-dichloro-5-fluoronicotinoyl)-3-(2,4-difluorophenyl)amino-acrylate | 10 mmol, 4.26 g | ClC1=C(C(=NC=C1C(=O)C(C(=O)OCC)=CNC1=C(C=C(C=C1)F)F)Cl)F | C17H11Cl2F3N2O3
reactant | potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 28 ml | CN(C)C=O | C3H7NO
product | Ethyl 7-chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | ClC1=NC=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O | C17H10ClF3N2O3
